US07687637B2
1b) N-[5-(4-Methanesulfonylamino-phenyl)-4-methyl-thiazol-2-yl]-acetamide
N-[5-(4-Amino-phenyl)-4-methyl-thiazol-2-yl]-acetamide (0.05 g, 0.20 mmol) is dissolved in dimethylformamide (1 ml) and treated by a solution of methylsulfonyl chloride (0.0232 g, 0.20 mmol) in dry dimethylformamide (1 ml) followed by 2M aqueous sodium carbonate solution (0.20 ml, 0.40 mmol). The reaction mixture is stirred at room temperature for 18 hours. The solvent is removed in vacuo and the residue is purified by chromatography to give the title compound. MH+ (ESMS): 326.1

reactant | N-[5-(4-Amino-phenyl)-4-methyl-thiazol-2-yl]-acetamide | 0.20 mmol, 0.05 g | NC1=CC=C(C=C1)C1=C(N=C(S1)NC(C)=O)C | C12H13N3OS
reactant | methylsulfonyl chloride | 0.20 mmol, 0.0232 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | 0.40 mmol, 2M, 0.20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[5-(4-Methanesulfonylamino-phenyl)-4-methyl-thiazol-2-yl]-acetamide | CS(=O)(=O)NC1=CC=C(C=C1)C1=C(N=C(S1)NC(C)=O)C | C13H15N3O3S2
